### PR TITLE
chore: remove redudant `have`'s

### PR DESCRIPTION
**Pull request by felixpernegger**
This PR removes most unused `have` statements in mathlib.

Some edge cases (Prop valued fields, have statements with arguments, etc) are not yet included (but this already took my computer 7 hours, so I will push that for later).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by felixpernegger** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/1c842cc916928c2dfb010608960a0719522f672b?reference=67158084fed415ed1f6dfa9b6929c19c83297807) for 1c842cc916928c2dfb010608960a0719522f672b against 67158084fed415ed1f6dfa9b6929c19c83297807 are in. No significant results found. @felixpernegger

- ✅ `build//instructions`: **-154.4G** (**-0.10%**)

**Medium changes (1✅)**

- ✅ `build/module/Mathlib.RingTheory.DedekindDomain.Different//instructions`: **-15.1G** (**-3.65%**)

**Small changes (8✅, 2🟥)**

- ✅ `build/module/Mathlib.Analysis.SpecialFunctions.ContinuousFunctionalCalculus.Rpow.ConjSqrt//instructions`: **-1.7G** (**-7.02%**)
- ✅ `build/module/Mathlib.Analysis.SpecialFunctions.ContinuousFunctionalCalculus.Rpow.RingInverseOrder//instructions`: **-1.4G** (**-2.04%**)
- ✅ `build/module/Mathlib.Condensed.Discrete.Characterization//instructions`: **-3.4G** (**-7.61%**)
- 🟥 `build/module/Mathlib.NumberTheory.Cyclotomic.PrimitiveRoots//instructions`: **+2.1G** (**+5.91%**)
- ✅ `build/module/Mathlib.NumberTheory.NumberField.ClassNumber//instructions`: **-2.3G** (**-11.47%**)
- ✅ `build/module/Mathlib.RingTheory.QuasiFinite.Basic//instructions`: **-4.0G** (**-2.96%**)
- ✅ `build/module/Mathlib.RingTheory.Unramified.Field//instructions`: **-1.7G** (**-5.31%**)
- ✅ `build/module/Mathlib.RingTheory.ZariskisMainTheorem//instructions`: **-6.4G** (**-3.61%**)
- ✅ `build/module/Mathlib.Topology.Homotopy.Lifting//instructions`: **-2.5G** (**-4.84%**)
- 🟥 `build/module/Mathlib.Topology.Order.Basic//instructions`: **+849.5M** (**+1.97%**)

File: Mathlib/Condensed/Discrete/Characterization.lean [hunk 1]
```diff
@@ -89,8 +89,6 @@ theorem isDiscrete_tfae (X : CondensedSet.{u}) :
   tfae_have 1 ↔ 3 := ⟨fun ⟨h⟩ ↦ h, fun h ↦ ⟨h⟩⟩
   tfae_have 1 ↔ 4 := Sheaf.isConstant_iff_mem_essImage _ CompHaus.isTerminalPUnit adjunction _
   tfae_have 1 ↔ 5 :=
-    have : functor.Faithful := inferInstance
-    have : functor.Full := inferInstance
     -- These `have` statements above shouldn't be needed, but they are.
     Sheaf.isConstant_iff_isIso_counit_app' _ CompHaus.isTerminalPUnit adjunction _
```
Comment (SnirBroshi) [inline Mathlib/Condensed/Discrete/Characterization.lean]:
```suggestion
  tfae_have 1 ↔ 5 := Sheaf.isConstant_iff_isIso_counit_app' _ CompHaus.isTerminalPUnit adjunction _
```

File: Mathlib/Combinatorics/SimpleGraph/Matching.lean [hunk 2]
```diff
@@ -510,7 +510,6 @@ decreasing_by
 
 lemma IsCycles.reachable_sdiff_toSubgraph_spanningCoe [Finite V] {v w : V} (hcyc : G.IsCycles)
     (p : G.Walk v w) (hp : p.IsPath) : (G \ p.toSubgraph.spanningCoe).Reachable w v := by
-  have : Fintype V := Fintype.ofFinite V
   exact reachable_sdiff_toSubgraph_spanningCoe_aux hcyc p hp
```
Comment (SnirBroshi) [inline Mathlib/Combinatorics/SimpleGraph/Matching.lean]:
```suggestion
    (p : G.Walk v w) (hp : p.IsPath) : (G \ p.toSubgraph.spanningCoe).Reachable w v :=
  reachable_sdiff_toSubgraph_spanningCoe_aux hcyc p hp
```

File: Mathlib/Condensed/Discrete/Characterization.lean [hunk 3]
```diff
@@ -136,8 +134,6 @@ theorem isDiscrete_tfae (M : CondensedMod.{u} R) :
   tfae_have 1 ↔ 3 := ⟨fun ⟨h⟩ ↦ h, fun h ↦ ⟨h⟩⟩
   tfae_have 1 ↔ 4 := Sheaf.isConstant_iff_mem_essImage _ CompHaus.isTerminalPUnit (adjunction R) _
   tfae_have 1 ↔ 5 :=
-    have : (functor R).Faithful := inferInstance
-    have : (functor R).Full := inferInstance
     -- These `have` statements above shouldn't be needed, but they are.
```
Comment (SnirBroshi) [inline Mathlib/Condensed/Discrete/Characterization.lean]:
```suggestion
```

File: Mathlib/Condensed/Discrete/Characterization.lean [hunk 4]
```diff
@@ -206,8 +202,6 @@ theorem isDiscrete_tfae (X : LightCondSet.{u}) :
   tfae_have 1 ↔ 3 := ⟨fun ⟨h⟩ ↦ h, fun h ↦ ⟨h⟩⟩
   tfae_have 1 ↔ 4 := Sheaf.isConstant_iff_mem_essImage _ LightProfinite.isTerminalPUnit adjunction X
   tfae_have 1 ↔ 5 :=
-    have : functor.Faithful := inferInstance
-    have : functor.Full := inferInstance
     -- These `have` statements above shouldn't be needed, but they are.
```
Comment (SnirBroshi) [inline Mathlib/Condensed/Discrete/Characterization.lean]:
```suggestion
```

File: Mathlib/Condensed/Discrete/Characterization.lean [hunk 5]
```diff
@@ -244,8 +238,6 @@ theorem isDiscrete_tfae (M : LightCondMod.{u} R) :
   tfae_have 1 ↔ 4 := Sheaf.isConstant_iff_mem_essImage _
     LightProfinite.isTerminalPUnit (adjunction R) _
   tfae_have 1 ↔ 5 :=
-    have : (functor R).Faithful := inferInstance
-    have : (functor R).Full := inferInstance
     -- These `have` statements above shouldn't be needed, but they are.
```
Comment (SnirBroshi) [inline Mathlib/Condensed/Discrete/Characterization.lean]:
```suggestion
```

File: Mathlib/Topology/Order/Basic.lean [hunk 6]
```diff
@@ -198,7 +198,6 @@ lemma isTopologicalBasis_biInter_Ioi_Iio_of_generateFrom (c : Set α)
   let kr := {s ∈ k | ∃ a ∈ c, s = Iio a}
   have k_eq : k = kl ∪ kr := by
     -- this `have` can be removed, but makes `grind` slower
```
Comment (felixpernegger) [inline Mathlib/Topology/Order/Basic.lean:206]:
```suggestion
    -- this `have` can be removed, but makes `grind` slower
    have : ∀ s ∈ k, ∃ a ∈ c, s = Ioi a ∨ s = Iio a := hk
```

File: Mathlib/Condensed/Discrete/Characterization.lean (hunk 5 above)
Comment (felixpernegger) [reply Mathlib/Condensed/Discrete/Characterization.lean]: Thanks, i wanted to take care of the comments, but you ebat me to it :)
